US07105544B2
2-METHYL-N-[6-(1-{3-[(TRIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-PYRIDINYL]PROPANAMIDE
Example 82 was prepared from triphenylacetic acid and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.05 (d, 1H, J=8.0 Hz), 7.81 (s, 1H), 7.63 (t, 1H, J=7.6 Hz), 7.30–7.24 (m, 15H), 6.84 (d, 1H, J=7.2 Hz), 6.33 (br s, 1H), 3.44 (dd, 2H, J=6.4, 12.4 Hz), 2.89 (d, 2H, J=11.6 Hz), 2.57–2.49 (m, 2H), 2.31 (t, 2H, J=6.8 Hz), 1.95 (t, 2H, J=12.0 Hz), 1.79–1.58 (m, 6H), 1.27 (d, 6H, J=6.8 Hz); ESMS m/e: 575.3 (M+H)+.

reactant | triphenylacetic acid | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | 2-METHYL-N-[6-(1-{3-[(TRIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-PYRIDINYL]PROPANAMIDE | CC(C(=O)NC1=NC(=CC=C1)C1CCN(CC1)CCCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C37H42N4O2
